US09290517B2
2-[(3aR,6R,6aS)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetic acid
A mixture ethyl 2-[(3aR,6R,6aS)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate (4.4 mg, 0.0085 mmol) and 3M sodium hydroxide (2.8 uL, 0.085 mmol) in ethanol (0.5 ml) was stirred at room temperature for 20 minutes. The reaction mixture was then purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-80% acetonitrile/water to give a major and minor isomers which were lyophilized to give the title compounds. Minor isomer: LC-MS: calculated for C26H22ClN3O5 491.12 observed m/e: 492.22 (M+H)+ (Rt 1.11/2 min); 1H NMR δ (ppm) (CD3OD): 7.88 (s, 1H), 7.75 (ABq, 4H), 7.71 (d, 2H), 7.48 (dd, 2H), 7.38 (dd, 1H), 5.56 (qt, 1H), 4.98 (t, 1H), 4.42 (d, 1H), 4.13 (dd, 2H), 4.05-3.98 (m, 3H), 3.72 (dd, 1H), 2.71 (m, 1H) and 2.44-2.33 (m, 2H). Major isomer: LC-MS: calculated for C26H22ClN3O5 491.12 observed m/e: 492.20 (M+H)+ (Rt 1.12/2 min); 1H NMR δ (ppm) (CD3OD): 7.94 (s, 1H), 7.76 (ABq, 4H), 7.72 (d, 2H), 7.49 (dd, 2H), 7.39 (dd, 1H), 5.59 (m, 1H), 5.01 (t, 1H), 4.61 (t, 1H), 4.12 (dd, 2H), 4.08-4.00 (m, 3H), 3.53 (dd, 1H), 2.70 (dd, 1H), 2.59 (m, 1H) and 2.49 (dd, 1H).

reactant | ethyl 2-[(3aR,6R,6aS)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate | 0.0085 mmol, 4.4 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OCC1CC(=O)OCC | C28H26ClN3O5
reactant | sodium hydroxide | 0.085 mmol, 3M, 2.8 uL | [OH-].[Na+]
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 2-[(3aR,6R,6aS)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetic acid | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OCC1CC(=O)O | C26H22ClN3O5
